US05610154
1-(8-Aza-bicyclo[3.2.1]oct-8-yl)-4-[4-(2-methoxy-5-trifluoromethyl- phenyl)-piperazin-1-yl]-2-phenyl-butan-1-one
The title compound was prepared from 4-(2-methoxy-5-trifluoromethyl-phenyl)-piperazine 0.7 g, 2.3 mmole, prepared according to the method reported in example 2), 1-(8-aza-bicyclo[3.2.1]oct-8-yl)-4-chloro-2-phenyl-butan-1-one (0.7 g, 2.3 mmole), diisopropylethylamine (0.4 g, 3.0 mmole) and potassium iodide (0.5 g, 3.0 mmole) in dimethylformamide (25 mL) in the manner described in example 2 to yield 0.8 g of title product as the hydrochloride hemihydrate, m.p. 198°-199° C.

reactant | 4-(2-methoxy-5-trifluoromethyl-phenyl)-piperazine | 2.3 mmole, 0.7 g | COC1=C(C=C(C=C1)C(F)(F)F)N1CCNCC1 | C12H15F3N2O
reactant | 1-(8-aza-bicyclo[3.2.1]oct-8-yl)-4-chloro-2-phenyl-butan-1-one | 2.3 mmole, 0.7 g | C12CCCC(CC1)N2C(C(CCCl)C2=CC=CC=C2)=O | C17H22ClNO
reactant | diisopropylethylamine | 3.0 mmole, 0.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 3.0 mmole, 0.5 g | [I-].[K+]
reactant | hydrochloride hemihydrate | O.Cl.Cl
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-(8-Aza-bicyclo[3.2.1]oct-8-yl)-4-[4-(2-methoxy-5-trifluoromethyl- phenyl)-piperazin-1-yl]-2-phenyl-butan-1-one | 0.8 g | C12CCCC(CC1)N2C(C(CCN2CCN(CC2)C2=C(C=CC(=C2)C(F)(F)F)OC)C2=CC=CC=C2)=O | C29H36F3N3O2
